US07449460B2
A mixture of 200 mg (0.40 mmol) of 7-(2-chloroethoxy)-4-{3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]anilino]-6-methoxy-3-quinolinecarbonitrile and 1.5 g (10 mmol) of 4-pyrrolidin-1-yl-piperidine are heated in N,N-dimethylformamide at 85° C. for 5 hours and at 40° C. for 60 hours. The reaction mixture is poured slowly into saturated aqueous sodium bicarbonate to yield a solid which is subsequently filtered off. The crude solid is washed with water, then recrystallized from anhydrous ethyl ether to give 203 mg of 4-{3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]anilino}-6-methoxy-7-{2-[4-(1-pyrrolidinyl)-1-piperidinyl]ethoxy}-3-quinolinecarbonitrile as an off-white solid, mp 127-130° C.

reactant | 7-(2-chloroethoxy)-4-{3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]anilino]-6-methoxy-3-quinolinecarbonitrile | 0.40 mmol, 200 mg | ClCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=CC(=C(C=C1)SC=1N(C=CN1)C)Cl)OC | C23H19Cl2N5O2S
reactant | 4-pyrrolidin-1-yl-piperidine | 10 mmol, 1.5 g | N1(CCCC1)C1CCNCC1 | C9H18N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-{3-chloro-4-[(1-methyl-1H-imidazole-2-yl)sulfanyl]anilino}-6-methoxy-7-{2-[4-(1-pyrrolidinyl)-1-piperidinyl]ethoxy}-3-quinolinecarbonitrile | 203 mg | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OCCN2CCC(CC2)N2CCCC2)C#N)C=CC1SC=1N(C=CN1)C | C32H36ClN7O2S
